### PR TITLE
Prove step_call_unobs

### PR DESCRIPTION
**Pull request by bMacSwigg**
Adds dependency on Tactics in NiUtilTheorems, to use destruct_match.

### CODE REVIEW

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 1]
```diff
@@ -276,7 +277,37 @@ Theorem set_call_unobs: forall ell s id n c,
     ~(lbl n <<L ell) ->
     (state_low_eq ell s (s_set_call s id c)).
 Proof.
-Admitted.
+    intros. unfold fnd in H. split; intros; simpl; subst.
```
Comment (aferr) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:280]: Putting:
`2: unfold s_set_call, chan_state_low_proj; destruct_match; eauto.`

here easily solves the channel state part.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 2]
```diff
@@ -276,7 +277,37 @@ Theorem set_call_unobs: forall ell s id n c,
...
+    - (* node_state_low_proj *)
+        destruct (dec_eq_nid nid id). (* Either nid = id, or not; split these cases*)
+        * (* nid = id, so s_set_call is relevant *)
```
Comment (aferr) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:283]: There are two theorems `upd_eq` and `upd_neq` in GenericMaps.v that make these parts of the proof easier if you do a `rewrite` with them. Getting the parenthesis right so that they can be used is a bit tricky though. If you do the following just after `destruct (dec_eq_nid id)` they wind up in the right form:

`all: subst; unfold node_state_low_proj, s_set_call; 
 destruct_match; try congruence; simpl.`

and then in the nid = id case you can proceed with `rewrite upd_eq`.
and in the nid <> id case `rewrite upd_neq; eauto` finishes the proof on its own.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 3]
```diff
@@ -276,7 +277,37 @@ Theorem set_call_unobs: forall ell s id n c,
...
+            subst. unfold node_state_low_proj.
```
Comment (aferr) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:284]: Once you get the rewrite from the state_update out of the way, you can simplify the goal a bunch before splitting into cases on `lbl <<? ell` with

```
    rewrite upd_eq. unfold fnd. unfold low_proj. 
    destruct_match. simpl. cbv [RuntimeModel.lbl ] in *.
    destruct (lbl <<? ell); try congruence.
```

**Review by aferr — COMMENTED** [review]
In case it's helpful to step through, here's a complete iteration on your proof. I followed the same high-level proof structure that you did:
```
    intros. unfold fnd in H. split; intros; simpl; subst.
    (* this gets rid of the chan_state part *)
    2: unfold s_set_call, chan_state_low_proj; destruct_match; eauto.
    unfold node_state_low_proj.
    destruct (dec_eq_nid nid id); subst.
    (* get the goals into a form where rewrite upd_eq or rewrite upd_neq will work *)
    all: unfold node_state_low_proj, s_set_call; 
    destruct_match; try congruence; simpl.
    - (* nid = id*)
    rewrite upd_eq. unfold fnd. unfold low_proj. 
    destruct_match. simpl. cbv [RuntimeModel.lbl ] in *.
    destruct (lbl <<? ell); try congruence.
    - (* nid <> id *) rewrite upd_neq; eauto.
```

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 1 above)
Comment (bMacSwigg) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v:280]: Small question: it looks like just `auto` is also sufficient; is there a preference for using `eauto` vs `auto`?

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 2 above)
Comment (bMacSwigg) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v:283]: Those theorems make this much easier! Thank you.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 3 above)
Comment (bMacSwigg) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v:284]: Thanks! Another small question: At one point I used `simpl in H0` to get the same effect as you do with `cbv`; is there a reason to prefer one over the other?

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 4]
```diff
@@ -276,7 +277,19 @@ Theorem set_call_unobs: forall ell s id n c,
...
-Admitted.
+    intros. unfold fnd in H. split; intros; simpl; subst.
+    (* chan_state_low_proj *)
+    2: unfold s_set_call, chan_state_low_proj; destruct_match; auto.
+    (* node_state_low_proj *)
+    unfold node_state_low_proj, s_set_call.
+    destruct (dec_eq_nid nid id); subst; destruct_match; try congruence; simpl.
+    - (* nid = id, so s_set_call is relevant *)
+        rewrite upd_eq. unfold fnd. unfold low_proj.
+        destruct_match. simpl. simpl in H0.
```
Comment (bMacSwigg) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:288]: The Coq compilation check on Github is failing with:
```
- File "./vfiles/NIUtilTheorems.v", line 290, characters 31-42:
  Error: - Error: No such hypothesis: H0
```
Which sounds like it's talking about this line, although this is actually line 288, characters 32-43. It runs fine when I step through it locally, or when I run `make`.

@aferr any ideas what the problem might be?

Comment (bMacSwigg) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v]: It looks like I was missing more recent commits; fixed now.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 3 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v]: It's really fine either way. I guess one reason cbv could be preferable is that it does not depend on naming a specific hypothesis in the tactic, so if coq picks different names for the hypotheses after a change, it cbv could be more likelyu to work. But again, either one is fine.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 1 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v:282]: It doesn't matter. I suppose auto is slightly better in this case because there's no reason any existential variables will show up here, and auto could be faster.

**Comment by aferr** [comment]
It looks like you did rebase or otherwise pulled in some newer commits from main branch. It might be tricky to merge this way. To get this in without issues, you might want to
- switch to main, pull
- make a new local branch off of main
- cherry-pick each one of your commits from this PR onto your new branch
- force push your new local branch onto the branch of your fork that you used to start this PR
(And if you need help with any of that, let me know).

**Comment by bMacSwigg** [comment]
I did, and I somehow managed to accidentally make these changes in my fork's `main`, too. (Woops)

I'm thinking that I should move these changes over to a new branch and reset my `main`. I think if I do that I'll probably have to close this PR and open a new one, since the branch I'd be merging from will change. Does that sound reasonable?

**Comment by aferr** [comment]
Starting a new PR sounds fine.

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 5]
```diff
@@ -287,7 +287,7 @@ Proof.
     destruct (dec_eq_nid nid id); subst; destruct_match; try congruence; simpl.
     - (* nid = id, so s_set_call is relevant *)
         rewrite upd_eq. unfold fnd. unfold low_proj.
-        destruct_match. simpl. simpl in H0.
+        destruct_match. simpl. simpl in H.
```
Comment (aferr) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:290]: actually, does `simpl in *` work so that if there's a definition change we won't have to fix the hypothesis name in the proof?
